US06559168B2
trans-2-(4-Aminomethyl-cyclohexyl)-propan-2-ol of Formula (9.0.17)
A 500 mL Parr bottle was charged with 150 mg Pd(OH)2, 3.3 g (10.7 mmol) trans-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester, 100 mL ethyl acetate and 100 mL MeOH. The bottle was placed under 50 psi H2 and shaken for 1 hour. The material was filtered through Celite and concentrated to give 1.57 g of a white solid.

reactant | trans-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester | 10.7 mmol, 3.3 g | C(C1=CC=CC=C1)OC(NC[C@@H]1CC[C@H](CC1)C(C)(C)O)=O | C18H27NO3
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 150 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | 100 mL | CO | CH4O
product | trans-2-(4-Aminomethyl-cyclohexyl)-propan-2-ol | 1.57 g | NC[C@@H]1CC[C@H](CC1)C(C)(C)O | C10H21NO
